US07678801B2
7d) N-{3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide
The title compound was prepared as described in Example 2 from N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide and 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate. LC-MS m/z 573 (M+H)+, 1.90 min (ret time).

reactant | N-{3-[8-(2,6-difluorophenyl)-2-(methylsulfonyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C=2SC=CC2)S(=O)(=O)C)=O | C26H18F2N4O4S2
reactant | 1,1-dimethylethyl 4-amino-1-piperidinecarboxylate | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
product | N-{3-[8-(2,6-difluorophenyl)-7-oxo-2-(4-piperidinylamino)-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methylphenyl}-2-thiophenecarboxamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C=CC2C)NC(=O)C=2SC=CC2)NC2CCNCC2)=O | C30H26F2N6O2S
